US09370522B2
A solution of ethyl 4-hydroxy-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate (1 g, 2.33 mmol, 1.00 equiv) in POCl3 (10 mL) was heated to reflux for 4 h in an oil bath. The resulting mixture was concentrated under vacuum, then diluted with 30 mL of ethyl acetate, and washed with 1×50 mL of sodium bicarbonate (aq.). The organic layer was concentrated under vacuum and purified by column chromatography (ethyl acetate/petroleum ether (1:10)) yielding 0.8 g (77%) of ethyl 4-chloro-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate as a yellow solid.

reactant | ethyl 4-hydroxy-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate | 2.33 mmol, 1 g, 1.00 equiv | OC1=C(C(=NC2=CC=C(C=C12)C(=O)OCC)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C26H23NO5
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate | 0.8 g, 77% | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)OCC)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C26H22ClNO4
